US06783912B2
Preparation of 2-naphthalenesulfonyl-trifluoro methanesulfonyl-diazomethane
Crude 2-naphthalenesulfonyl-trifluoromethanesulfonyl-methane (5 g, 0.014 mole) is dissolved in acetonitrile (150 ml) under nitrogen and the solution is cooled to 0° C. using an ice bath. Tosyl azide (8.3 g, 0.042 mole) and then triethylamine (3.9 ml, 0.028 mole) are added in one portion and the reaction mixture is stirred at that temperature for 24 h. After adding water (400 ml) and dichloromethane (200 ml), the phases are separated and the aqueous layer is extracted twice with dichloromethane (150 ml) and the combined organic phases are washed with 1 N HCl, saturated sodium bicarbonate and water. After drying over MgSO4 and removal of the solvent, the crude product is obtained as orange oil.

reactant | 2-naphthalenesulfonyl-trifluoromethanesulfonyl-methane | 0.014 mole, 5 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)CS(=O)(=O)C(F)(F)F | C12H9F3O4S2
reactant | Tosyl azide | 0.042 mole, 8.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)N=[N+]=[N-] | C7H7N3O2S
reactant | triethylamine | 0.028 mole, 3.9 ml | C(C)N(CC)CC | C6H15N
reactant | water | 400 ml | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-naphthalenesulfonyl-trifluoro methanesulfonyl-diazomethane | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C(=[N+]=[N-])S(=O)(=O)C(F)(F)F | C12H7F3N2O4S2
